US07544689B2
(2R)-2-(6-Benzylamino-9-isopropyl-9H-purin-2-ylamino)-butyric acid
Benzyl-(2-fluoro-9-isopropyl-9H-purin-6-yl)-amine (151 mg, 0.5 mmol) was dissolved in NMP (5 mL) and DBU (1.5 mL, 10 mmol). (R)-(−)-2-Aminobutyric acid (99% ee/GLC; 1.03 g, 10 mmol) was then added and the mixture was stirred under N2 at 160 ° C. for 1 h. After cooling, the mixture was diluted with citric acid (10% aq solution) and CH2Cl2 (25 mL each). The phases were separated and the organic fraction was extracted with brine (2×10 mL), dried over MgSO4, filtered, and evaporated. The residue was redissolved in MeCN and was fractionated by preparative RP-HPLC (Vydac 218TP1022, 9 mL/min, 22.5-32.5% MeCN in H2O containing 0.1% CF3COOH over 40 min). Appropriate fractions were pooled and lyophilised to afford the pure title compound (137 mg, 74.4%) as an amorphous off-white solid. Anal. RP-HPLC (Vydac 218TP54, 1 mL/min): tR=16.04 min (0-60% MeCN), 15.95 min (22.5-32.5% MeCN in H2O containing 0.1% CF3COOH over 20 min), purity: >98% (γ=214 nm). 1H-NMR (d6-DMSO, 300 MHz) δ: 0.95 (t, J=7.3 Hz, 3H, CH2CH3); 1.51 (d, J=6.7 Hz, 6H, CH(CH3)2); 1.78 (m, J=7.3 Hz, 2H, CH2CH3); 4.27 (m, 1H, CHCH2); 4.64 (hept., J=6.7 Hz, 1H, CH(CH3)2); 4.69 (m, 2H, CH2Ph); 7.25-7.41 (m, 6H, ArH). De-MALDI-TOF MS (α-cyano-4-hydroxycinnamic acid matrix): [M+H]+=369.41. FAB-MS: [M+H]+=369.2033 (C19H25N6O requires 369.2039).

reactant | Benzyl-(2-fluoro-9-isopropyl-9H-purin-6-yl)-amine | 0.5 mmol, 151 mg | C(C1=CC=CC=C1)NC1=C2N=CN(C2=NC(=N1)F)C(C)C | C15H16FN5
reactant | DBU | 10 mmol, 1.5 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (R)-(−)-2-Aminobutyric acid | 10 mmol, 1.03 g | N[C@@H](C(=O)O)CC | C4H9NO2
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-(6-Benzylamino-9-isopropyl-9H-purin-2-ylamino)-butyric acid | 137 mg, 74.4% | C(C1=CC=CC=C1)NC1=C2N=CN(C2=NC(=N1)N[C@@H](C(=O)O)CC)C(C)C | C19H24N6O2
